US04535089
5.6 g of N-(4-fluorobenzoyl)isobutyrylmethylamine, 1.2 g of 61% sodium hydride and 4.61 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(5). 7.0 g of ethyl 3-(4-fluorobenzoylamino)-3-isobutyrylpropionate are thereby obtained as oil. Yield: 90.0%

reactant | N-(4-fluorobenzoyl)isobutyrylmethylamine | 5.6 g | FC1=CC=C(C(=O)NCC(C(C)C)=O)C=C1 | C12H14FNO2
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | ethyl bromoacetate | 4.61 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-(4-fluorobenzoylamino)-3-isobutyrylpropionate | 7.0 g, Yield: 90.0% | FC1=CC=C(C(=O)NC(CC(=O)OCC)C(C(C)C)=O)C=C1 | C16H20FNO4
